US05863917
A 25% solution of sodium methoxide in methanol (433 μl, 1.89 mmol) was added dropwise to a solution of 5-amino-2,3,7-trichloro-6-methylquinoxaline and 5-amino-2,3,6-trichloro-7-methylquinoxaline (200 mg, 0.788 mmol) in dry tetrahydrofuran (7.9 ml) at 0° C. under nitrogen. The mixture was stirred for 31/4 hours and then diluted with ethyl acetate (30 ml) and washed with water (2×10 ml) and brine (10 ml) and then dried (MgSO4) filtered and concentrated under reduced pressure. The solid residue was purified by flash chromatography on silica gel, eluting with a hexane/ethyl acetate gradient giving 5-amino-6-chloro-2,3-dimethoxy-7-methylquinoxaline as an off-white solid, mp 169°-170° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 1.89 mmol, 433 μl | CO | CH4O
reactant | 5-amino-2,3,7-trichloro-6-methylquinoxaline | NC1=C2N=C(C(=NC2=CC(=C1C)Cl)Cl)Cl | C9H6Cl3N3
reactant | 5-amino-2,3,6-trichloro-7-methylquinoxaline | 0.788 mmol, 200 mg | NC1=C2N=C(C(=NC2=CC(=C1Cl)C)Cl)Cl | C9H6Cl3N3
solvent | tetrahydrofuran | 7.9 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 5-amino-6-chloro-2,3-dimethoxy-7-methylquinoxaline | NC1=C2N=C(C(=NC2=CC(=C1Cl)C)OC)OC | C11H12ClN3O2
